US04826854
A mixture of 2.00 g of ethyl 4-chloro-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate and 1.12 g of 4-methoxyphenylhydrazine are stirred for eight hours in 20 ml of N-methylpyrrolidinone at 105°. The solution is then diluted with 50 ml of water and twice extracted with ether. The combined ether fractions are extracted twice with 20 ml of 1 N NaOH and the combined alkaline fractions are back-extracted with ether. The alkaline aqueous solution is then treated with an aqueous solution of 2.14 g of ammonium chloride, stirred until a solid forms; the precipitate is filtered off and dried to give 2-(4-methoxyphenyl)-2,3,6,7,8,9,10,11,12,13-decahydrocyclodeca[b]pyrazolo[3,4-d]pyridin-3(5H)-one, m.p. 143°-150°, the compound of example 5/ g.

reactant | ethyl 4-chloro-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate | 2.00 g | ClC1=C2C(=NC=C1C(=O)OCC)CCCCCCCC2 | C16H22ClNO2
reactant | 4-methoxyphenylhydrazine | 1.12 g | COC1=CC=C(C=C1)NN | C7H10N2O
solvent | N-methylpyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 50 ml | O | H2O
product | 2-(4-methoxyphenyl)-2,3,6,7,8,9,10,11,12,13-decahydrocyclodeca[b]pyrazolo[3,4-d]pyridin-3(5H)-one | COC1=CC=C(C=C1)N1N=C2C3=C(NC=C2C1=O)CCCCCCCC3 | C21H25N3O2
